US07511067B2
b) 1-(4-benzyloxy-3-hydroxymethyl-phenyl)-2-(1,1-dimethyl-3-[1,2,4]triazol-1-yl-propylamino)-ethanol
7.6 g of methyl 2-benzyloxy-5-[2-[1,1-dimethyl-3-[1,2,4]triazol-1-yl-propylamino]-1-hydroxy-ethyl]-benzoate are reduced in an ethanolic calcium chloride solution with sodium borohydride as described for Example 1c. The product is obtained as a colourless oil after purification by column chromatography (CHCl3/MeOH/NH3=90/10/0.5). Yield: 6 g (84%).

reactant | methyl 2-benzyloxy-5-[2-[1,1-dimethyl-3-[1,2,4]triazol-1-yl-propylamino]-1-hydroxy-ethyl]-benzoate | 7.6 g | C(C1=CC=CC=C1)OC1=C(C(=O)OC)C=C(C=C1)C(CNC(CCN1N=CN=C1)(C)C)O | C24H30N4O4
reactant | calcium chloride | [Cl-].[Ca+2].[Cl-]
reactant | sodium borohydride | [BH4-].[Na+]
product | 1-(4-benzyloxy-3-hydroxymethyl-phenyl)-2-(1,1-dimethyl-3-[1,2,4]triazol-1-yl-propylamino)-ethanol | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(CNC(CCN1N=CN=C1)(C)C)O)CO | C23H30N4O3
